US03989503
Preparation of 2,2,5-trimethyl-3-dichloroacetyl oxazolidine
Eighteen (18) milliliters of a benzene solution containing 4.6 g. of 2,2,5-trimethyl oxazolidine was added to 25 ml. of benzene and 4.5 g. of triethylamine. Five and nine-tenths (5.9 g.) grams of dichloroacetyl chloride was added dropwise with stirring and cooling in an ice bath. When reaction was complete the mixture was poured into water and the benzene layer separated, dried over anhydrous magnesium sulfate and the benzene removed under vacuum. Yield was 7.7 g. of an oil, nD30 = 1.4950.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 2,2,5-trimethyl oxazolidine | CC1(OC(CN1)C)C | C6H13NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | dichloroacetyl chloride | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | water | O | H2O
product | 2,2,5-trimethyl-3-dichloroacetyl oxazolidine | CC1(OC(CN1C(C(Cl)Cl)=O)C)C | C8H13Cl2NO2
